US06384220B2
A mixture of 3-cyclopentyl-2-(4-morpholin-4-yl-phenyl)-propionic acid methyl ester (364.0 mg, 1.15 mmol) and methyl urea (254.8 mg, 3.44 mmol) was treated with a solution of magnesium methoxide in methanol (7.4 wt. %, 6.6 mL, 4.59 mmol). The resulting reaction mixture was heated under reflux for 3 d. The reaction mixture was allowed to cool to 25° C. and then filtered through a pad of celite. The pad of celite was washed well with ethyl acetate until the washings showed the absence of product by thin layer chromatography. The filtrate was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate then 1/1 hexanes/ethyl acetate) afforded 1-[3-cyclopentyl-2-(4-morpholin-4-yl-phenyl)-propionyl]-3-methyl-urea (43.5 mg, 11%) as a white solid: mp 206-207° C.; FAB-HRMS m/e calcd for C20H29N3O3 (M+) 359.2209, found 359.2206.

reactant | 3-cyclopentyl-2-(4-morpholin-4-yl-phenyl)-propionic acid methyl ester | 1.15 mmol, 364.0 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)N1CCOCC1)=O | C19H27NO3
reactant | methyl urea | 3.44 mmol, 254.8 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 4.59 mmol, 6.6 mL | CO | CH4O
product | 1-[3-cyclopentyl-2-(4-morpholin-4-yl-phenyl)-propionyl]-3-methyl-urea | 43.5 mg, 11% | C1(CCCC1)CC(C(=O)NC(=O)NC)C1=CC=C(C=C1)N1CCOCC1 | C20H29N3O3
